US04692453
Trans-1,2,3,4,4a,5,10,10a-octahydro-6-methoxy-N-n-propylbenzo[g]quinoline
3 g of trans-1,2,3,4,4a,5,10,10a-octahydro-6-methoxybenzo[g]quinoline are dissolved in 100 ml of dimethylformamide. 3.8 g potassium carbonate and 1.8 ml of n-propyl iodide are subsequently added and the obtained suspension is stirred for 2 days at room temperature.

reactant | trans-1,2,3,4,4a,5,10,10a-octahydro-6-methoxybenzo[g]quinoline | 3 g | COC1=CC=CC2=C1C[C@H]1CCCN[C@@H]1C2 | C14H19NO
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl iodide | 1.8 ml | C(CC)I | C3H7I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Trans-1,2,3,4,4a,5,10,10a-octahydro-6-methoxy-N-n-propylbenzo[g]quinoline | COC1=CC=CC2=C1C[C@H]1CCCN([C@@H]1C2)CCC | C17H25NO
